US07351719B2
Z25b) Ethyl 2-nitro-5-(2-diethylamino-ethoxy)-benzoate
Prepared analogously to intermediate product Z5a from ethyl 5-hydroxy-2-nitrobenzoate and (2-chloroethyl)-diethyl-amine-hydrochloride

reactant | ethyl 5-hydroxy-2-nitrobenzoate | OC=1C=CC(=C(C(=O)OCC)C1)[N+](=O)[O-] | C9H9NO5
reactant | (2-chloroethyl)-diethyl-amine-hydrochloride | Cl.ClCCN(CC)CC
product | Ethyl 2-nitro-5-(2-diethylamino-ethoxy)-benzoate | [N+](=O)([O-])C1=C(C(=O)OCC)C=C(C=C1)OCCN(CC)CC | C15H22N2O5
